US05929085
(b) 2-Methyl-1-propyl-1,2,3,4-tetrahydroisoquinolin-7-amine hydrochloride
To a suspension of 2-methyl-7-nitro-1-propyl-1,2,3,4-tetrahydroisoquinoline hydrochloride (1.30 g, 4.80 mmol) in ethanol (100 ml) was added 10% Pd--C (0.2 g) and the reaction mixture was hydrogenated at 50 psi for 3 h. The solution was filtered and the filtrate was concentrated in vacuo. The residue was dissolved in isopropanol (30 ml) and allowed to stand overnight to give the title compound (1.04 g, 90%) as a tan solid, m.p. 217-9° C. (dec.).

reactant | 2-methyl-7-nitro-1-propyl-1,2,3,4-tetrahydroisoquinoline hydrochloride | 4.80 mmol, 1.30 g | Cl.CN1C(C2=CC(=CC=C2CC1)[N+](=O)[O-])CCC
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-Methyl-1-propyl-1,2,3,4-tetrahydroisoquinolin-7-amine hydrochloride | 1.04 g, 90% | Cl.CN1C(C2=CC(=CC=C2CC1)N)CCC | InChI=1S/C13H20N2.ClH/c1-3-4-13-12-9-11(14)6-5-10(12)7-8-15(13)2;/h5-6,9,13H,3-4,7-8,14H2,1-2H3;1H
